US06992087B2
Charge a Kimble vial with methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate (0.45 g, 1.14 mmol), Pd(PPh3)4 (198 mg, 0.17 mmol), and 2,4-dichlorophenylboronic acid (325 mg, 1.71 mmol). Flush with N2 and add DMF (4 mL) and 2 M Na2CO3 (1.1 mL). The resulting mixture was heated at 85° C. overnight. The mixture was diluted with sat. aq. NaHCO3. Extract with Et2O. The organic extract was dried over MgSO4, filtered and concentrated. Purify by biotage MPLC (90 g column, 30% ethyl acetate/hexanes) to afford 290 mg (59%) of methyl 3-(2,4-dichlorophenyl)-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate as a solid: 1H NMR (CDCl3) δ 3.06-3.09, 3.27-3.32, 3.80, 4.09-4.15, 4.84, 5.58, 7.28-7.49, 8.25; MS (ESI+) for C21H17Cl2N3O3 m/z 430 (M+H)+.

reactant | methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | 1.14 mmol, 0.45 g | BrC=1C(=NC(=CN1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)OC | C15H14BrN3O3
reactant | 2,4-dichlorophenylboronic acid | 1.71 mmol, 325 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
catalyst | Pd(PPh3)4 | 0.17 mmol, 198 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(2,4-dichlorophenyl)-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | 290 mg, 59% | ClC1=C(C=CC(=C1)Cl)C=1C(=NC(=CN1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)OC | C21H17Cl2N3O3
